US07728022B2
{1-[4-(trifluoromethyl)phenyl]butyl}hydrazine
Hydrazine monohydrate (8.9 g) was dissolved in isopropanol (25 ml) and 1-(1-bromobutyl)-4-(trifluoromethyl)benzene (as prepared in WO 2005013985, 2.0 g, 7.12 mmol) added. The mixture was heated to 70° C. and stirred for 16 h. After this time the solvent was removed and the residue taken up in ethyl acetate and washed three times (H2O). The combined organics were dried (sodium sulfate) and concentrated to give the mixture of products as a white solid suspended in a clear oil. The mixture was triturated with diethyl ether to give a white solid; 1H NMR δ (ppm)(DMSO): 9.20 (1 H, s), 7.76 (2 H, d, J=8.1 Hz), 7.64 (2 H, s), 4.16 (1 H, s), 1.85 (1 H, s), 1.59 (1 H, s), 1.20-0.96 (2 H, m), 0.82 (3 H, t, J=7.3 Hz).

reactant | Hydrazine monohydrate | 8.9 g | O.NN
reactant | 1-(1-bromobutyl)-4-(trifluoromethyl)benzene | 7.12 mmol, 2.0 g | BrC(CCC)C1=CC=C(C=C1)C(F)(F)F | C11H12BrF3
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | {1-[4-(trifluoromethyl)phenyl]butyl}hydrazine | FC(C1=CC=C(C=C1)C(CCC)NN)(F)F | C11H15F3N2
